US07632851B2
(2Benzo[1,2,5]thiadiazol-5-yl-phenyl)-dimethyl-amine
Starting from 5-bromo-benzo[1,2,5]thiadiazole and 2-bromo-N,N-dimethylaniline. Orange resin. MS(ES+): 256 (M+1).

reactant | 5-bromo-benzo[1,2,5]thiadiazole | BrC=1C=CC=2C(=NSN2)C1 | C6H3BrN2S
reactant | 2-bromo-N,N-dimethylaniline | BrC1=C(N(C)C)C=CC=C1 | C8H10BrN
product | (2Benzo[1,2,5]thiadiazol-5-yl-phenyl)-dimethyl-amine | N1=C2C(=NS1)C=C(C=C2)C2=C(C=CC=C2)N(C)C | C14H13N3S
